US04003927
(3,4-Dichloro-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten- 2-yloxy)acetic acid
2-Hydroxy-3,4-dichloro-6,7,8,9-tetrahydro-5H- benzocyclohepten- 5-one (10 g., 0.04 mole), anhydrous potassium carbonate (7 g., 0.05 mole) and ethyl bromoacetate (8.35 g., 0.05 mole) in DMF (75 ml.) are stirred at 60° C. for 1 hour. Then potassium hydroxide (5 g.) dissolved in water (5 ml.) and methanol (100 ml.) is added. The mixture is refluxed for one hour. The methanol is distilled, the residue is poured into water, and the solution is filtered. Upon acidification with 12 N NCl, (3,4-dichloro-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten- 2-yloxy)acetic acid separates and is collected by filtration.

reactant | 2-Hydroxy-3,4-dichloro-6,7,8,9-tetrahydro-5H- benzocyclohepten- 5-one | 0.04 mole, 10 g | OC=1C(=C(C2=C(CCCCC2=O)C1)Cl)Cl | C11H10Cl2O2
reactant | potassium carbonate | 0.05 mole, 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.05 mole, 8.35 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium hydroxide | 5 g | [OH-].[K+]
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | (3,4-Dichloro-5-oxo-6,7,8,9-tetrahydro-5H-benzocyclohepten- 2-yloxy)acetic acid | ClC1=C(C2=C(CCCCC2=O)C=C1OCC(=O)O)Cl | C13H12Cl2O4
